US08487108B2
In a round bottom flask methyl 2-((R)—((R)-1-((S)-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-3-(tetrahydro-2H-pyran-4-yl)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate (20 mg, 0.03 mmol) and TEAF (15 mg, 0.07 mmol) was dissolved in a 15 mL of in MeCN. The solution was allowed to stir at reflux for 1 h. The mixture was concentrated in vacuo and purified by preparative HPLC to give methyl 2-((R)—((R)-1-((S)-1-(methylamino)-3-(tetrahydro-2H-pyran-4-yl)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate (6.24 mg, 42%).

reactant | methyl 2-((R)—((R)-1-((S)-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-3-(tetrahydro-2H-pyran-4-yl)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate | 0.03 mmol, 20 mg | CN(C(=O)OCC[Si](C)(C)C)C[C@H](CC1CCOCC1)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=CC=CC=C1 | C32H54N4O7Si
reactant | TEAF | 0.07 mmol, 15 mg | CCN(CC)CC.C(=O)O
solvent | MeCN | CC#N | C2H3N
product | methyl 2-((R)—((R)-1-((S)-1-(methylamino)-3-(tetrahydro-2H-pyran-4-yl)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate | 6.24 mg, 42% | CNC[C@H](CC1CCOCC1)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=CC=CC=C1 | C26H42N4O5
